US08957089B2
82.1 1-(4-Chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide
1-(4-Chlorophenyl)cyclobutanecarboxylic acid (6.63 g, 31.492 mmol) and 2-(4-methoxyphenyl)ethanamine (5.00 g, 33.067 mmol) were treated with dichloromethane (470 mL). The suspension was cooled to 3° C. and N,N-dimethylpyridin-4-amine (4.04 g, 33.1 mmol) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (6.35 g, 33.1 mmol) were added. The reaction mixture was allowed to warm to room temperature and was stirred over night. The reaction mixture was washed successively with 2N hydrochloric acid (2×) and water (2×). The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash-chromatography (silica, dichloromethane:methanol=9:1) to give a pale yellow solid. Yield: 10.58 g (30.8 mmol, 98%).

reactant | 1-(4-Chlorophenyl)cyclobutanecarboxylic acid | 31.492 mmol, 6.63 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | 2-(4-methoxyphenyl)ethanamine | 33.067 mmol, 5.00 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 33.1 mmol, 6.35 g | Cl.CN(CCCN=C=NCC)C
catalyst | N,N-dimethylpyridin-4-amine | 33.1 mmol, 4.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 470 mL | ClCCl | CH2Cl2
product | 1-(4-Chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide | ClC1=CC=C(C=C1)C1(CCC1)C(=O)NCCC1=CC=C(C=C1)OC | C20H22ClNO2
